US08486970B2
A mixture of 590 mg of 3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}benzoic acid, 217 mg of CDI, and 9 ml of DMF was stirred at 50° C. for 1 hour, and 241 mg of guanidine carbonate was then added thereto, followed by stifling at the same temperature for 3 hours. The reaction solution was left to be cooled and the solvent was then evaporated under reduced pressure. The residue was diluted with ethyl acetate, and washed with a saturated aqueous sodium hydrogen carbonate solution and then with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform-methanol) and recrystallized from acetonitrile to obtain 348 mg of (3RS,4RS)-N-({3-[(diaminomethylene)carbamoyl]benzyl}oxy)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a colorless solid.

reactant | 3-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}benzoic acid | 590 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC=1C=C(C(=O)O)C=CC1)=O)C1C(CCCC1)NS(=O)(=O)C | C31H31Cl2N3O7S
reactant | CDI | 217 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | guanidine carbonate | 241 mg | C(O)(O)=O.NC(=N)N
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
product | (3RS,4RS)-N-({3-[(diaminomethylene)carbamoyl]benzyl}oxy)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 348 mg | NC(N)=NC(=O)C=1C=C(CONC(=O)C2C(N(C(C3=CC=CC=C23)=O)C2C(CCCC2)NS(=O)(=O)C)C2=C(C=C(C=C2)Cl)Cl)C=CC1 | C32H34Cl2N6O6S
